US07320995B2
1-isopropylsulfonyl-2-amino-6-(1-(1-(methyl)piperidin-4-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole
Add aqueous formaldehyde (37% w/w, 0.15 mmol) to a solution of 1-isopropylsulfonyl-2-amino-6-(1-(piperidin-4-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole (75 mg) in methanol (10 mL). Stir the mixture at room temperature for 30 minutes, then cool to 0° C. Add acetic acid (0.3 mL) followed by sodium cyanoborohydride (18 mg) and stir over night at room temperature. Concentrate the mixture under reduced pressure and then dissolve the residue in ethyl acetate. Wash the solution twice with 1 N sodium hydroxide and concentrate the organic phase under reduced pressure to provide 60 mg (79%) of the title compound. MS(ES+): m/z=479.6 (M+H)+

reactant | formaldehyde | 0.15 mmol | C=O | CH2O
reactant | 1-isopropylsulfonyl-2-amino-6-(1-(piperidin-4-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole | 75 mg | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCNCC2)C2=CC=CC=C2)N | C24H28N6O2S
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 18 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-isopropylsulfonyl-2-amino-6-(1-(1-(methyl)piperidin-4-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole | 60 mg, 79% | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCN(CC2)C)C2=CC=CC=C2)N | C25H30N6O2S
